US07507740B2
(iii) Production of 2-[4-({3-chloro-4-{3-(trifluoromethyl)phenoxy}phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]-N-[2-(methylsulfonyl)ethyl]acetamide
[4-({3-Chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]acetic acid (149.3 mg) was dissolved in N,N-dimethylformamide (1.6 mL), 2-(methylsulfonyl)ethanamine (60.3 mg), 1H-1,2,3-benzotriazol-1-ol (67.8 mg), triethylamine (0.15 mL) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (93.0 mg) were added, and the mixture was stirred at room temperature for 17 hrs. Moreover, 2-(methylsulfonyl)ethanamine (120.6 mg), 1H-1,2,3-benzotriazol-1-ol (134.6 mg), triethylamine (0.3 mL) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (181.4 mg) were added, and the mixture was stirred at room temperature for 24 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, ethyl acetate:methanol=100:0→90:10), and basic silica gel column chromatography (eluent, hexane:ethyl acetate=33:67→0:100→ethyl acetate:methanol=90:10) to give the title compound (20.3 mg) as a white powder.

reactant | [4-({3-Chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]acetic acid | 149.3 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CC(=O)O | C21H14ClF3N4O3
reactant | 2-(methylsulfonyl)ethanamine | 60.3 mg | CS(=O)(=O)CCN | C3H9NO2S
reactant | 1H-1,2,3-benzotriazol-1-ol | 67.8 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 93.0 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-(methylsulfonyl)ethanamine | 120.6 mg | CS(=O)(=O)CCN | C3H9NO2S
reactant | 1H-1,2,3-benzotriazol-1-ol | 134.6 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 181.4 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 1.6 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.15 mL | C(C)N(CC)CC | C6H15N
product | 2-[4-({3-chloro-4-{3-(trifluoromethyl)phenoxy}phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]-N-[2-(methylsulfonyl)ethyl]acetamide | 20.3 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CC(=O)NCCS(=O)(=O)C | C24H21ClF3N5O4S
